US06635657B1
C. 2-[(4-Aminocyclohexylcarbonyl)amino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide
2-[[4-(tert-Butoxycarbonylamino)cyclohexylcarbonyl]-amino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide (2.90 g, 5.71 mmol) was dissolved in TFA (10 mL). After 5 minutes, the reaction was concentrated in vacuo. The residue was diluted with methylene chloride and methanol. The organics were washed with saturated aqueous sodium carbonate (2×50 mL) and water (50 mL). The organic layer was dried over sodium sulfate, filtered and concetrated to give the title product (1.86 g, 4.56 mmol, 80%) as a white solid.

reactant | 2-[[4-(tert-Butoxycarbonylamino)cyclohexylcarbonyl]-amino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 5.71 mmol, 2.90 g | C(C)(C)(C)OC(=O)NC1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C24H28Cl2N4O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[(4-Aminocyclohexylcarbonyl)amino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 4.56 mmol, 1.86 g, 80% | NC1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C19H20Cl2N4O2
